US04990614
10% Palladium-carbon (200 mg) was added to an ethanolic solution (50 ml) of 1-(2,4-dibenzyloxybenzoyl-L-glutaminyl)-4-methylpiperazine.hydrochloride (270 mg) obtained above and catalytic reduction was carried out at room temperature and under atmospheric pressure in hydrogen stream. Thereafter, treatments were conducted in the same manner as in Example 5 (ii) to obtain colorless crystalline powder 1-(2,4-dihydroxybenzoyl-L-glutaminyl)-4-methylpiperazine.hydrochloride (160 mg). Melting point: 144°-145° C.

reactant | 1-(2,4-dibenzyloxybenzoyl-L-glutaminyl)-4-methylpiperazine.hydrochloride | 50 ml, 270 mg | Cl.C(C1=CC=CC=C1)OC1=C(C(=O)N[C@@H](CCC(N)=O)C(=O)N2CCN(CC2)C)C=CC(=C1)OCC1=CC=CC=C1
solvent | hydrogen | [H][H] | H2
catalyst | Palladium-carbon | 200 mg | [C].[Pd]
product | 1-(2,4-dihydroxybenzoyl-L-glutaminyl)-4-methylpiperazine.hydrochloride | 160 mg | Cl.OC1=C(C(=O)N[C@@H](CCC(N)=O)C(=O)N2CCN(CC2)C)C=CC(=C1)O | InChI=1S/C17H24N4O5.ClH/c1-20-6-8-21(9-7-20)17(26)13(4-5-15(18)24)19-16(25)12-3-2-11(22)10-14(12)23;/h2-3,10,13,22-23H,4-9H2,1H3,(H2,18,24)(H,19,25);1H/t13-;/m0./s1
